US05011834
To a stirred solution of 1,2-diphenylethylamine (930 mg, 4.20 mmol) in EtOH (30 ml) were added 3-bromo-1-propyne (700 mg, 5.30 mmol) and potassium carbonate (1.38 g, 10. 0 mmol). The mixture was refluxed for 16 h and then more 3-bromo-1-propyne (100 mg) was added The mixture was refluxed another 6 h and then it was cooled, diluted with 1 N NaOH (200 ml) and extracted with CH2Cl2. The extract was dried (MgSO4) and concentrated. The residue was purified by flash chromatography. Elution with 1:1 hexanes-CH2Cl2 gave first N,N-di-propargyl-1,2-diphenylethylamine (218 mg, 19%) [1H NMR (CDCl3) δ 2.34 (t,2), 2.83 (dd, 1), 3.53 (dd, 1), 3.63 (dd, 2), 3.71 (dd, 2), 3.85 (dd, 1), 6.89-6.92 (m, 2), 7.14-7.26 (m, 8); 13C NMR (CDCl3)δ 40.5 (t), 40.9 (t), 68.2 (d), 73.4 (d), 79.4 (d), 126.1, 127.6, 128.1, 128.3, 128.8, 129.7, 129.8 (all d), 138.8, 140.8 (all s)]followed by N-propargyl-1,2-diphenylethylamine. Distillation at 180° C./0.5 mm gave the pure compound (583 mg, 59%) as a colorless oil: 1H NMR (CDCl3) δ 1.69 (bs, 1), 2.20 (t, 1), 2.95 (dd, 1), 3.06 (dd, 1), 3.24 (dd, 1), 3.36 (dd, 1), 4.21 (dd, 1), 7.25-7.50 (m, 10); 13C NMR (CDCl3) δ 36.0 (t), 45.1 (t), 62.6 (d), 71.6 (d), 82.2 (s), 126.7, 127.6, 127.8, 128.7, 129.5 (all d), 138.6, 142.7 (all s).

reactant | 1,2-diphenylethylamine | 4.20 mmol, 930 mg | C1(=CC=CC=C1)C(CC1=CC=CC=C1)N | C14H15N
reactant | 3-bromo-1-propyne | 5.30 mmol, 700 mg | BrCC#C | C3H3Br
reactant | potassium carbonate | 0 mmol, 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromo-1-propyne | 100 mg | BrCC#C | C3H3Br
reactant | EtOH | 30 ml | CCO | C2H6O
solvent | NaOH | 1 N, 200 ml | [OH-].[Na+]
product | N,N-di-propargyl-1,2-diphenylethylamine | 218 mg, 19% | C(C#C)N(CC#C)C(CC1=CC=CC=C1)C1=CC=CC=C1 | C20H19N
